US06858651B2
In analogy to examples 31.5 and 31.6, trans-Methanesulfonic acid 4-(4-methylamino-cyclohexyl)-butyl ester.trifluoro-acetic acid and and 4-trifluoromethyl-phenyl-sulfonylchloride were reacted, followed by treatment with N-allyl-N-methylamine to give trans-N-{4-[4-(Allyl-methyl-amino)-butyl]-cyclohexyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide, MS: 447 (MH+).

reactant | trans-Methanesulfonic acid 4-(4-methylamino-cyclohexyl)-butyl ester | CN[C@@H]1CC[C@H](CC1)CCCCOS(=O)(=O)C | C12H25NO3S
reactant | trifluoro-acetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-trifluoromethyl-phenyl-sulfonylchloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | N-allyl-N-methylamine | C(C=C)NC | C4H9N
product | trans-N-{4-[4-(Allyl-methyl-amino)-butyl]-cyclohexyl}-N-methyl-4-trifluoromethyl-benzenesulfonamide | C(C=C)N(CCCC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C22H33F3N2O2S
